US09302988B2
Step 6: Ethyl 1-benzyl-3-(4-chloro-2-fluorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate
To a solution of ethyl 3-(4-chloro-2-fluorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate (1.33 g, 3.96 mmol) in dry MeCN (20 mL) was added K2CO3 (1.10 g, 7.92 mmol) and benzyl bromide (521 μL, 4.36 mmol). The reaction mixture was stirred overnight at 80° C. Addition of silica (ca. 2 g) was followed by filtration; the filtrate was concentrated in vacuo. The product was co-evaporated twice with toluene (30 mL), to result in 1.75 g (99%, 95% purity) of the desired product as a clear oil.

reactant | ethyl 3-(4-chloro-2-fluorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate | 3.96 mmol, 1.33 g | ClC1=CC(=C(C=C1)C1=C(NC(=C1)C(F)(F)F)C(=O)OCC)F | C14H10ClF4NO2
reactant | K2CO3 | 7.92 mmol, 1.10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 4.36 mmol, 521 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | MeCN | 20 mL | CC#N | C2H3N
product | Ethyl 1-benzyl-3-(4-chloro-2-fluorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate | C(C1=CC=CC=C1)N1C(=C(C=C1C(F)(F)F)C1=C(C=C(C=C1)Cl)F)C(=O)OCC | C21H16ClF4NO2
